US08426411B2
To a solution of N-cyclohexyl-1H-pyrrolo[2,3-b]pyridine-4,5-diamine (0.084 g, 0.36 mmol) in triethyl orthoformate (1 mL, 6 mmol) was added p-toluenesulfonic acid monohydrate (0.002 g, 0.011 mmol). The reaction mixture was heated at about 80° C. for about 1 h. p-Toluenesulfonic acid monohydrate (0.002 g, 0.011 mmol) was added and the reaction mixture was stirred at about 80° C. After about 1 h, p-toluenesulfonic acid monohydrate (0.002 g, 0.011 mmol) was added and the reaction mixture was stirred at about 80° C. for about 2 h. The reaction mixture was cooled to ambient temperature and concd under reduced pressure. The reaction was purified by RP-HPLC (Table 1, Method m) to give 1-cyclohexyl-1,6-dihydroimidazo[4,5-d]pyrrolo[2,3-b]pyridine (0.002 g, 2%) as a brown solid: LC/MS (Table 1, Method a) Rt=1.90 min; MS m/z 241 (M+H)+.

reactant | N-cyclohexyl-1H-pyrrolo[2,3-b]pyridine-4,5-diamine | 0.36 mmol, 0.084 g | C1(CCCCC1)NC1=C2C(=NC=C1N)NC=C2 | C13H18N4
reactant | triethyl orthoformate | 6 mmol, 1 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | p-toluenesulfonic acid monohydrate | 0.011 mmol, 0.002 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | p-Toluenesulfonic acid monohydrate | 0.011 mmol, 0.002 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | p-toluenesulfonic acid monohydrate | 0.011 mmol, 0.002 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 1-cyclohexyl-1,6-dihydroimidazo[4,5-d]pyrrolo[2,3-b]pyridine | 0.002 g, 2% | C1(CCCCC1)N1C=NC=2C1=C1C(=NC2)NC=C1 | C14H16N4
